US07737166B2
N-(3-Bromo-6-cyano-4-iodo-2-methoxy-5-methylphenyl)-2,2,2-trifluoroacetamide (I-36)
Under nitrogen atmosphere, 2-amino-4-bromo-5-iodo-3-methoxy-6-methylbenzamide (I-34) (100 mg, 0.26 mmol) was dissolved in dewatered tetrahydrofuran (1 ml), triethylamine (160 μl, 1.14 mmol) was added, followed by cooling in a water-ice hath. A dewatered tetrahydrofuran (0.25 ml) solution of trifluoroacetic anhydride (95 μl, 0.676 mmol) was dropwise added to it with a syringe, followed by stirring at 0° C. for 1 hour. Ice was added to the reaction liquid, the organic matter was extracted with diethyl ether. The organic layer was washed with aqueous saturated sodium chloride solution, dried on anhydrous magnesium sulfate, then the solvent was evaporated away under reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=6:1) to obtain the entitled compound (85 mg, 70%) as a colorless, solid.

reactant | 2-amino-4-bromo-5-iodo-3-methoxy-6-methylbenzamide | 0.26 mmol, 100 mg | NC1=C(C(=O)N)C(=C(C(=C1OC)Br)I)C | C9H10BrIN2O2
reactant | triethylamine | 1.14 mmol, 160 μl | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.676 mmol, 95 μl | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.25 ml | O1CCCC1 | C4H8O
product | N-(3-Bromo-6-cyano-4-iodo-2-methoxy-5-methylphenyl)-2,2,2-trifluoroacetamide | 85 mg, 70% | BrC=1C(=C(C(=C(C1I)C)C#N)NC(C(F)(F)F)=O)OC | C11H7BrF3IN2O2
